Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, chills and uterine tenderness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
A ___ year old female who complains of
Fever, Abd pain. pt coming in with c/o llq abd pain s/p
c-section ___ ct showed ? endometritis +fevers 101.2
low bp's at osh 3liters ns given 8mg morphine given zofran
given zosyn 3.375gm iv given fs-134 pt has an insulin
pump(not working at this time) pt is nursing
                       Timing: Gradual
                     Severity: Severe
                     Duration: 3 Days
                     Location: abdominal pain x 3 days llq

 
Past Medical History:
IDDM type I

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Temp: 98.2 HR: 65 BP: 112/64 Resp: 18 O(2)Sat: 98 Normal
 
Constitutional: Comfortable
HEENT: Pupils equal, round and reactive to light,
Extraocular muscles intact
Breast and Pelvic PE per ___ from OB/GYN
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft; moderate TTP LLQ ; no masses; no vol
guarding
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
___: No petechiae

Discharge
VSS, afebrile
NAD
RRR
CTAB
Abd Soft, mild fundal tenderness, nondistended, no R/G, fundus 
firm
minimal lochia
___ c/d/i
 
Pertinent Results:
___ 09:25AM   ___ COMMENTS-GREEN TOP
___ 09:25AM   LACTATE-0.7
___ 09:23AM   ___ PO2-56* PCO2-42 PH-7.32* TOTAL 
CO2-23 BASE XS--4 INTUBATED-NOT INTUBA
___ 09:15AM   GLUCOSE-129* UREA N-12 CREAT-0.8 SODIUM-142 
POTASSIUM-4.5 CHLORIDE-110* TOTAL CO2-20* ANION GAP-17
___ 09:15AM   estGFR-Using this
___ 09:15AM   estGFR-Using this
___ 09:15AM   WBC-17.5*# RBC-3.81* HGB-11.9* HCT-38.3 
MCV-101* MCH-31.2 MCHC-31.0 RDW-13.2
___ 09:15AM   NEUTS-88.9* LYMPHS-7.9* MONOS-2.2 EOS-0.6 
BASOS-0.5
___ 09:15AM   PLT COUNT-396#
 
Brief Hospital Course:
Ms. ___ was treated for endometritis with Amp/Gent/Clinda IV 
x 48hrs afebile with good response. Her fundal tenderness 
improved. Insulin pump adjusted with improved glycemic control. 
She was discharged home in stable condition on hospital day 2. 
 
Medications on Admission:
Levothyroxine 75mcg QD
PNV
Sertraline 100mg QD
Insulin ___ following
 
Discharge Medications:
Augmentin 875mg p.o. q12hr
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Late onset endometritis, s/p cesarean section
Type I DM
Hypothyroidism
 
Discharge Condition:
Stable
 
Discharge Instructions:
Routine postop care
DM care per ___
Augmentin 875mg BID

 
Followup Instructions:
___